US06489322B1
b) 4-Isopropyl-7-nitro-2,3,4,5-tetrahydro-1,4-benzoxazepine
To 2-[(2-fluoro-5-nitrobenzyl)(isopropyl)amino]ethanol (31.2 g, 90 mmol) in DMSO (250 ml) was added 25% sodium hydroxide solution (43.2 g, 270 mmol) and the mixture was allowed to stir for 3 h. The reaction was diluted to twice its volume with water and the solids were collected by filtration. The filtrate was extracted with methylene chloride (3×150 ml), washed with water, dried with magnesium sulfate, filtered, and concentrated to an oil. The solid and the oil were dissolved in hot 95% ethanol, then cooled. The solids were collected by filtration (17.47 g, 68%), MS m/z 237 [M+H]+.

reactant | 2-[(2-fluoro-5-nitrobenzyl)(isopropyl)amino]ethanol | 90 mmol, 31.2 g | FC1=C(CN(CCO)C(C)C)C=C(C=C1)[N+](=O)[O-] | C12H17FN2O3
reactant | sodium hydroxide | 270 mmol, 43.2 g | [OH-].[Na+]
solvent | DMSO | 250 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-Isopropyl-7-nitro-2,3,4,5-tetrahydro-1,4-benzoxazepine | C(C)(C)N1CCOC2=C(C1)C=C(C=C2)[N+](=O)[O-] | C12H16N2O3
